US07662831B2
A mixture of 3,3-dimethyl-N-1,2,3,4-tetrahydroquinolin-6-ylbutanamide hydrochloride (50 mg, 0.18 mmol) and 2-chlorocyclohexanone (28 mg, 0.21 mmol) in ethanol (2.5 mL) was heated in a microwave to 150° C. for 50 min. The reaction mixture was concentrated and the crude material was purified by flash column chromatography (elution with 20% ethyl acetate-hexane) to provide N-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-yl-3,3-dimethylbutanamide (19 mg). MS (ESI) m/z 325; HPLC purity major: no impurities are detected at 210-370 nm window; and no impurities are detected at 252 nm (max. abs), RT=10.8 (Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN and MeOH) for 10 min, hold 4 min).

reactant | 3,3-dimethyl-N-1,2,3,4-tetrahydroquinolin-6-ylbutanamide hydrochloride | 0.18 mmol, 50 mg | Cl.CC(CC(=O)NC=1C=C2CCCNC2=CC1)(C)C
reactant | 2-chlorocyclohexanone | 0.21 mmol, 28 mg | ClC1C(CCCC1)=O | C6H9ClO
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | N-5,6,8,9,10,11-hexahydro-4H-pyrido[3,2,1-jk]carbazol-2-yl-3,3-dimethylbutanamide | 19 mg | C1=C2C=3CCCCC3N3C2=C(C=C1NC(CC(C)(C)C)=O)CCC3 | C21H28N2O
